US08497360B2
Titanium(IV) isopropoxide (1.2 mL, 4.04 mmol) was dissolved in anhydrous dichloromethane (8 mL) under a nitrogen atmosphere. The solution was cooled to 0° C. and dimethylzinc (2 M in toluene, 8.67 mL, 17.34 mmol) was added dropwise. The mixture was stirred at 0° C. for 45 minutes followed by addition of 4-iodo-2-nitrobenzaldehyde (800 mg, 2.89 mmol). The mixture was stirred at 0° C. for 36 hours, then quenched by 1 M HCl (CAUTION: vigorous gas evolution!) and extracted with ethyl either (50 mL) three times. The combined organic phase was washed with water (50 mL), saturated NaHCO3 solution (50 mL) and brine (50 mL), dried over Na2SO4, concentrated in vacuo, and purified by column chromatography to yield racemic (RS)-1-(4-Iodo-2-nitrophenyl)ethanol (408 mg, 48%). 1H NMR (400 MHz, CDCl3): δ 8.21 (dd, 1 H, J=1.8 and 5.3 Hz, Ph-H), 7.96 (m, 1 H, Ph-H), 7.58 (d, 1 H, J=8.3 Hz, Ph-H), 5.38 (q, 1 H, J=6.1 Hz, Ph-CH), 2.34 (br s, 1 H, OH), 1.54 (d, 3 H, J=6.1 Hz, CH3); 13C NMR (100 MHz, CDCl3): δ 147.98 (C), 142.49 (CH), 140.68 (C), 132.77 (CH), 131.31 (CH), 91.60 (C), 65.40 (CH), 24.28 (CH3).

reactant | dimethylzinc | 17.34 mmol, 2 M, 8.67 mL | C[Zn]C
reactant | 4-iodo-2-nitrobenzaldehyde | 2.89 mmol, 800 mg | IC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4INO3
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
catalyst | Titanium(IV) isopropoxide | 4.04 mmol, 1.2 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | racemic (RS)-1-(4-Iodo-2-nitrophenyl)ethanol | 408 mg, 48% | IC1=CC(=C(C=C1)C(C)O)[N+](=O)[O-] | C8H8INO3
